US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound I)
To (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (246 mg, 0.39 mmol) in THF:MeOH:H2O (2:3:1, 6 mL) was added LiOH.H2O (16.4 mg, 0.47 mmol). After being stirred for 12 h at room temperature, the reaction mixture was concentrated and the residue was dissolved in 20 mL of EtOAc. The organic layer was washed with brine and dried over Na2SO4 Concentration gave a residue, which was purified by preparative TLC (PE:EtOAc:MeOH=8:80:1, Rf=0.5) to yield 132 mg of title compound as a white solid. 1H-NMR (CD3OD, 400 MHz) δ 7.48 (s, 1H), 7.42 (s, 1H), 7.11 (s, 4H), 5.93-5.87 (m, 1H), 5.24 (dd, J=17.2 Hz, 1.6 Hz, 1H), 5.11 (dd, J=1.6 Hz, 10.4 Hz, 1H), 4.85 (d, J=12.0 Hz, 1H), 4.62 (d, J=12.0 Hz, 1H), 4.51 (d, J=9.2 Hz, 1H), 4.23 (s, 2H), 4.10 (d, J=14.8 Hz, 1H), 4.05 (d, J=14.8 Hz, 1H), 3.88 (d, J=12.4 Hz, 1H), 3.71-3.67 (m, 1H), 3.52-3.41 (m, 4H), 2.60 (q, J=7.6 Hz, 2H), 1.21 (t, J=7.6 Hz, 3H); LC-MS (m/z) 463 [(M+1)+], 507 [(M+45)−].

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.39 mmol, 246 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)COCC=C)COC(C)=O | C33H39ClO10
reactant | LiOH.H2O | 0.47 mmol, 16.4 mg | O[Li].O
solvent | THF MeOH H2O | 6 mL | C1CCOC1.CO.O
product | (2S,3R,4R,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 132 mg | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C25H31ClO6
